US04511391
1-(2,3-Dihydro-5,6,7-trimethylbenzo[b]furan-4-yl)but-1-en-3-one was prepared from 2,3-dihydro-5,6,7-trimethylbenzo[b]furan-4-carboxaldehyde and acetone following essentially the same procedure as that described in Example 1 part (i), and was obtained as a brown oil.

reactant | 2,3-dihydro-5,6,7-trimethylbenzo[b]furan-4-carboxaldehyde | CC1=C(C2=C(OCC2)C(=C1C)C)C=O | C12H14O2
solvent | acetone | CC(=O)C | C3H6O
product | 1-(2,3-Dihydro-5,6,7-trimethylbenzo[b]furan-4-yl)but-1-en-3-one | CC1=C(C2=C(OCC2)C(=C1C)C)C=CC(C)=O | C15H18O2
